US05585395
In analogy to Example 14, 27 g of 2-nitro-4-trifluoromethylsulphonyl-aniline in 100 ml of acetic acid were chlorinated with 10 g of chlorine. 29 g of 2-nitro4-trifluoromethylsulphonyl-6-chloro-aniline were obtained; melting point 138°-139° C.

reactant | 2-nitro-4-trifluoromethylsulphonyl-aniline | 27 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)S(=O)(=O)C(F)(F)F | C7H5F3N2O4S
reactant | chlorine | 10 g | ClCl | Cl2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-nitro4-trifluoromethylsulphonyl-6-chloro-aniline | 29 g | [N+](=O)([O-])C1=C(N)C(=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H4ClF3N2O4S
